US06127414
(a) (R)-N2 -(Boc)-N5 -(Cbz)-(S)-N-[1-(4-hydroxyphenyl)ethyl]ornithine amide
Prepared according to the method described in Example 1(a) above from Nα -Boc-Nδ -Cbz-(R)-ornithine (5.34 g; 14.56 mmol), (S)-4-hydroxy-α-methylbenzylamine (2.0 g; 14.56 mmol), BOP reagent (9.67 g; 21.9 mmol), triethylamine (2.5 mL; instead of DiPEA) in acetonitrile (100 mL; instead of acetonitrile:CH2Cl2 (1:1)) to yield the sub-title compound (6.7g) as a white foam. The crude 1H NMR was consistent with the structure.

reactant | Nα -Boc-Nδ -Cbz-(R)-ornithine | 14.56 mmol, 5.34 g | C(=O)(OC(C)(C)C)N[C@H](CCCNC(=O)OCC1=CC=CC=C1)C(=O)O | C18H26N2O6
reactant | (S)-4-hydroxy-α-methylbenzylamine | 14.56 mmol, 2.0 g | OC1=CC=C([C@H](C)N)C=C1 | C8H11NO
reactant | BOP reagent | 21.9 mmol, 9.67 g | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DiPEA | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | C(C)#N | C2H3N
solvent | acetonitrile CH2Cl2 | C(C)#N.C(Cl)Cl
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | (R)-N2 -(Boc)-N5 -(Cbz)-(S)-N-[1-(4-hydroxyphenyl)ethyl]ornithine amide | 6.7g | C(=O)(OC(C)(C)C)N[C@@H](CCCNC(=O)OCC1=CC=CC=C1)C(=O)N[C@H](C)C1=CC=C(C=C1)O | C26H35N3O6
